US09328118B2
Trifluoroacetic acid (0.41 mL) was added to a solution of tert-butyl {2-cyano-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}acetate (160 mg) in CH2Cl2 (1.6 mL) at room temperature, and the mixture was stirred at the same temperature for 5 hours. After the reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (CHCl3:MeOH=100:0 to 80:20), whereby {2-cyano-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}acetic acid (137 mg) was obtained as a white solid.

reactant | Trifluoroacetic acid | 0.41 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl {2-cyano-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}acetate | 160 mg | C(#N)C=1N=C(C2=C(N1)N(C=C2)CC(=O)OC(C)(C)C)C2=CC(=C(C=C2)OCC)C(F)(F)F | C22H21F3N4O3
solvent | CH2Cl2 | 1.6 mL | C(Cl)Cl | CH2Cl2
product | {2-cyano-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}acetic acid | 137 mg | C(#N)C=1N=C(C2=C(N1)N(C=C2)CC(=O)O)C2=CC(=C(C=C2)OCC)C(F)(F)F | C18H13F3N4O3
